US03994900
8-[[3-(Dimethylamino)propyl]thio]-3,4-dihydro-4-phenyl- 2(1H)-quinolinone, hydrochloride (1:1)
A solution of 8-[[3-(dimethylamino)propyl]thio]-3,4-dihydro-4-phenyl-2(1H)-quinolinone (5.0g) in 50 ml of chloroform is treated with 2.1 ml of 6.9N ethanolic hydrogen chloride and the resulting solution is slowly diluted to 200 ml with ether to yield 5.5g of a colorless solid, melting point 179°-181° C. After crystallization from 70 ml of acetonitrile, the product weighs 5.0g, melting point 181°-183° C.

reactant | 8-[[3-(dimethylamino)propyl]thio]-3,4-dihydro-4-phenyl-2(1H)-quinolinone | 5.0g | CN(CCCSC=1C=CC=C2C(CC(NC12)=O)C1=CC=CC=C1)C | C20H24N2OS
reactant | hydrogen chloride | 6.9N, 2.1 ml | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 8-[[3-(Dimethylamino)propyl]thio]-3,4-dihydro-4-phenyl- 2(1H)-quinolinone, hydrochloride | 5.5g | Cl.CN(CCCSC=1C=CC=C2C(CC(NC12)=O)C1=CC=CC=C1)C | InChI=1S/C20H24N2OS.ClH/c1-22(2)12-7-13-24-18-11-6-10-16-17(14-19(23)21-20(16)18)15-8-4-3-5-9-15;/h3-6,8-11,17H,7,12-14H2,1-2H3,(H,21,23);1H
